US06476028B1
Preparation of 3-[1,2,3,6-Tetrahydro-1-(phenylmethyl)-4-pyridinyl]-1H-indol-5-ol
A mixture of 5-hydroxyindole (0.66 g) and 1-benzyl-4-piperidone (0.95 g) in glacial acetic acid was purged with nitrogen and heated to reflux for 50 min. The mixture was concentrated in vacuo, treated with toluene and concentrated in vacuo, and the residue was purified by chromatography (silica gel, 20-30% ethanol/dichloromethane) to afford the title compound which was recrystallized from ethanol (0.4 g). mp 223-227° C.

reactant | 5-hydroxyindole | 0.66 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | 1-benzyl-4-piperidone | 0.95 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[1,2,3,6-Tetrahydro-1-(phenylmethyl)-4-pyridinyl]-1H-indol-5-ol | C1(=CC=CC=C1)CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)O | C20H20N2O
